US04474700
A. Methyltriethylammonium-3-azidotetrafluoroproprionate
A mixture of 37.0 g (0.184 mole) of methyl-3-azidotetrafluoropropionate, prepared as in Example 9, 20.2 g (0.20 mole of triethylamine, and 50 ml of ether was stirred at 25°. A second layer slowly formed. The reaction was stopped after 24 days, at which time the second layer was not increasing in volume. Evaporation of volatiles under full pump vacuum left 54.9 g (99% of theory) of methyltriethylammonium 3-azidotetrafluoropropionate as a moist solid. IR(CHCl3): 3020 (sat'd CH), 2170 (N3), 1690 (CO2), and 1250-1100 cm-1 (CF). NMR (DMSO-d6): 1H 3.31 (q, JHH 7 Hz, 6H, CH2), 2.93 (s, 3H, NCH3), and 1.22 ppm (t, JHH 7 Hz, 9H, CH3); 19F -90.8 (t, JFF 6.3 Hz, 2F, CF2N3) and -115.6 ppm (t, JFF 6.3 Hz, 2F, CF2C=O).

reactant | methyl-3-azidotetrafluoropropionate | 0.184 mole, 37.0 g | COC(C(C(N=[N+]=[N-])(F)F)(F)F)=O | C4H3F4N3O2
reactant | triethylamine | 0.20 mole | C(C)N(CC)CC | C6H15N
solvent | ether | 50 ml | CCOCC | C4H10O
product | Methyltriethylammonium 3-azidotetrafluoroproprionate | C[N+](CC)(CC)CC.N(=[N+]=[N-])C(C(C(=O)[O-])(F)F)(F)F | InChI=1S/C7H18N.C3HF4N3O2/c1-5-8(4,6-2)7-3;4-2(5,1(11)12)3(6,7)9-10-8/h5-7H2,1-4H3;(H,11,12)/q+1;/p-1
